US09085576B2
To a solution of ethyl 3,5-dimethoxypyrazine-2-carboxylate (0.314 g, 1.48 mmol) in MeOH (5 mL) at room temperature was added potassium hydroxide (0.135 g, 2.41 mmol). The reaction mixture was stirred at RT for 17 h, quenched with 5 M HCl (0.48 mL), and diluted with EtOAc. The solid was removed by filtration and the filtrate was concentrated. Purification by flash column chromatography on silica gel (10% MeOH in DCM) gave 3,5-dimethoxypyrazine-2-carboxylic acid (0.261 g, 1.42 mmol, 96% yield) as a white solid. LC/MS (ESI+) m/z=185.1 (M+H)+.

reactant | ethyl 3,5-dimethoxypyrazine-2-carboxylate | 1.48 mmol, 0.314 g | COC=1C(=NC=C(N1)OC)C(=O)OCC | C9H12N2O4
reactant | potassium hydroxide | 2.41 mmol, 0.135 g | [OH-].[K+]
solvent | MeOH | 5 mL | CO | CH4O
product | 3,5-dimethoxypyrazine-2-carboxylic acid | 1.42 mmol, 0.261 g, 96% yield | COC=1C(=NC=C(N1)OC)C(=O)O | C7H8N2O4
